US08293768B2
Synthesis of 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methyl-N-((1-methyl-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide
Following the procedure as described in Example 31, making variations as required to replace 3-(aminomethyl)pyridine with (1-methyl-1H-pyrazol-4-yl)methylamine to react with 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid, the title compound was obtained as a colorless solid in 80% yield: mp 168-170° C.; 1H NMR (300 MHz, CDCl3) δ 7.71 (s, 1H), 7.44 (s, 1H), 7.39 (s, 1H), 7.40-7.33 (m, 2H), 7.06-6.98 (m, 2H), 6.86 (s, 1H), 6.02 (t, J=5.0 Hz, 1H), 4.95 (s, 2H), 4.41 (d, J=5.0 Hz, 2H), 3.87 (s, 3H), 2.48 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.6 (d, JC-F=247.1 Hz), 162.2, 150.4, 140.0, 138.7, 134.3, 132.3, 131.2 (d, JC-F=3.3 Hz), 130.3 (d, JC-F=8.3 Hz), 129.5, 125.9, 120.2, 118.1, 115.7 (d, JC-F=21.7 Hz), 48.9, 38.9, 34.4, 15.9; MS (ES+) m/z 427.1 (M+1).

reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | (1-methyl-1H-pyrazol-4-yl)methylamine | CN1N=CC(=C1)CN | C5H9N3
reactant | 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)O)C)C=C1 | C15H12FN3O3S
product | 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methyl-N-((1-methyl-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide | 80% yield | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)NCC=2C=NN(C2)C)C)C=C1 | C20H19FN6O2S
